US07763657B2
To a solution of (4-amino-5-iodo-2-methoxy-benzyl)-carbamic acid tert-butyl ester (700 mg, 1.85 mmol) and tributylvinyltin (783 mg, 2.68 mmol) in toluene was added Pd(PPh3)4 (214 mg, 0.19 mmol) under argon. The resulting mixture was heated with reflux for 8 hrs, filtered through celite, and then concentrated under reduced pressure. The crude residue was column-chromatographed (hexane/ethylacetate=2/1 to 1/1) to yield (4-amino-2-methoxy-5-vinyl-benzyl)-carbamic acid tert-butyl ester (220 mg, 43%).

reactant | (4-amino-5-iodo-2-methoxy-benzyl)-carbamic acid tert-butyl ester | 1.85 mmol, 700 mg | C(C)(C)(C)OC(NCC1=C(C=C(C(=C1)I)N)OC)=O | C13H19IN2O3
reactant | tributylvinyltin | 2.68 mmol, 783 mg | C(CCC)C(=C(CCCC)CCCC)[Sn]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.19 mmol, 214 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4-amino-2-methoxy-5-vinyl-benzyl)-carbamic acid tert-butyl ester | 220 mg, 43% | C(C)(C)(C)OC(NCC1=C(C=C(C(=C1)C=C)N)OC)=O | C15H22N2O3
